US08748624B2
STEP A: 2′-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine
The title compound was prepared as described in Example 159 substituting 4-bromoaniline and (2-chloro-4-(trifluoromethyl)phenyl)boronic acid for 4-bromo-3-chloroaniline and (4-(trifluoromethyl)phenyl)boronic acid, respectively.

reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | (2-chloro-4-(trifluoromethyl)phenyl)boronic acid | ClC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
reactant | 4-bromo-3-chloroaniline | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | (4-(trifluoromethyl)phenyl)boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2′-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine | ClC1=C(C=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)N | C13H9ClF3N
